US07321040B2
H Ethyl-carbamic acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-benzyl ester
A suspension of [2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-phenyl]-methanol (28 mg, 0.1 mmol) and ethyl isocyanate (14 μL, 0.2 mmol) was heated at 60° C. for 18 hours. The reaction was then cooled and concentrated in vacuo to an oil. The crude was purified by flash chromatography (eluting with 2% methanol/ethyl acetate), followed by suspension in 7:3 hexane:ethyl acetate. The solid was filtered to give the title compound as a white solid (17 mg, 48%) LCMS (m/z) 355.4 (M+1).

reactant | [2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-phenyl]-methanol | 0.1 mmol, 28 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)OC2=C(C=CC=C2)CO | C16H17N3O2
reactant | ethyl isocyanate | 0.2 mmol, 14 μL | C(C)N=C=O | C3H5NO
product | Ethyl-carbamic acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-benzyl ester | 17 mg, 48% | C(C)(C)C1=NN=C2N1C=C(C=C2)OC2=C(COC(NCC)=O)C=CC=C2 | C19H22N4O3
